US06489328B2
A suspension of 5-amino-1-methyl-6-nitroquinazolin-2,4-dione (400 mg, 1.64 mmol) in MeOH (70 mL) was hydrogenated over 10% Pd/C (150 mg) in a Parr shaker at 50 psi until uptake ceased. The catalyst was removed by filtration and the filtrate concentrated to yield 5,6-diamino-1-methylquinazolin-2,4-dione (350 mg, 99% crude).

reactant | 5-amino-1-methyl-6-nitroquinazolin-2,4-dione | 1.64 mmol, 400 mg | NC1=C2C(NC(N(C2=CC=C1[N+](=O)[O-])C)=O)=O | C9H8N4O4
solvent | MeOH | 70 mL | CO | CH4O
catalyst | Pd/C | 150 mg | [Pd] | Pd
product | 5,6-diamino-1-methylquinazolin-2,4-dione | 350 mg, 99% | NC1=C2C(NC(N(C2=CC=C1N)C)=O)=O | C9H10N4O2
